US06750348B1
To a cold (−78° C.), stirred solution of 5,6,7,8-tetrahydroquinoline (0.713 g, 5.35 mmol) in dry THF (50 mL) was added tert-butyllithium (1.7 M in pentane, 4.5 mL, 7.65 mmol). The initially colorless solution turned deep red. After one hour, CO2 gas was bubbled through the reaction mixture for 15 minutes. The red color faded and the solution became cloudy and colorless. The reaction mixture was warmed to room temperature, treated with water (30 mL), and diluted with diethyl ether (30 mL). The phases were separated and the aqueous phase was extracted with ether (3×30 mL). The aqueous phase was concentrated under reduced pressure to provide a white solid. Methanol (50 mL) was added to the solid followed by the dropwise addition of concentrated H2SO4 (˜1 mL) until the mixture became homogenous. The resultant solution was heated to reflux overnight and then was cooled to room temperature. The solution was concentrated and the residue was dissolved in saturated aqueous Na2CO3 (30 mL) and CH2Cl2 (30 mL). The phases were separated and the aqueous phase was extracted with CH2Cl2 (3×30 mL). The combined organic extracts were dried (Na2SO4) and concentrated. Purification of the crude material by radial chromatography on silica gel (4 mm plate, 20:1 CH2Cl2—CH3OH) provided 8-carbomethoxy-5,6,7,8-tetrahydroquinoline (0.724 g, 72%) as a pale yellow oil. 1H NMR (CDCl3) δ 1.72-1.82 (m, 1H), 1.92-2.03 (m, 1H), 2.12-2.24 (m, 2H), 2.71-2.91 (m, 2H), 3.74 (s, 3H), 3.98 (dd, 1H, J=6.6, 6.6 Hz), 7.09 (dd, 1H, J=7.8, 4.8 Hz), 7.40 (dd, 1H, J=7.5, 0.9 Hz), 8.40 (d, 1H, J=4.8 Hz); 13C NMR (CDCl3) δ 20.68, 27.31, 28.70, 48.55, 52.40, 122.39, 132.83, 137.48, 147.60, 154.13, 175.13. ES-MS m/z 192 (M+H).

reactant | 5,6,7,8-tetrahydroquinoline | 5.35 mmol, 0.713 g | N1=CC=CC=2CCCCC12 | C9H11N
reactant | tert-butyllithium | 7.65 mmol, 1.7 M, 4.5 mL | C(C)(C)(C)[Li]
reactant | Methanol | 50 mL | CO | CH4O
reactant | H2SO4 | ˜1 mL | OS(=O)(=O)O | H2O4S
reactant | THF | 50 mL | C1CCOC1 | C4H8O
product | 8-carbomethoxy-5,6,7,8-tetrahydroquinoline | 0.724 g, 72% | C(=O)(OC)C1CCCC=2C=CC=NC12 | C11H13NO2
